US04018794
By replacing in Example 6, step B, ethyl 4-benzoyl3-hydroxy-5-nitrobenzoate and ethyl iodide with equimolar amounts of ethyl 3-hydroxy-4-(4'-methylbenzoyl)-5-nitrobenzoate and n-butyl iodide respectively and following the procedure described, 3-n-butoxy-4-(4'-methylbenzoyl)5-nitrobenzoic acid crystallizing with 0.5mole of ethanol is obtained with a melting point of 162.5°-163° C.

reactant | ethyl 4-benzoyl3-hydroxy-5-nitrobenzoate | C(C1=CC=CC=C1)(=O)C1=C(C=C(C(=O)OCC)C=C1[N+](=O)[O-])O | C16H13NO6
reactant | ethyl iodide | C(C)I | C2H5I
reactant | ethyl 3-hydroxy-4-(4'-methylbenzoyl)-5-nitrobenzoate | OC=1C=C(C(=O)OCC)C=C(C1C(C1=CC=C(C=C1)C)=O)[N+](=O)[O-] | C17H15NO6
reactant | n-butyl iodide | C(CCC)I | C4H9I
reactant | ethanol | 0.5mole | C(C)O | C2H6O
product | 3-n-butoxy-4-(4'-methylbenzoyl)5-nitrobenzoic acid | C(CCC)OC=1C=C(C(=O)O)C=C(C1C(C1=CC=C(C=C1)C)=O)[N+](=O)[O-] | C19H19NO6
